US07183304B2
The suspension of the title A compound, 4,5-dimethyl-2-(4-trifluoromethylphenyl)-oxazole 3-oxide hydrochloride (500 g, 1.70 mol) in 4.06 L of acetonitrile is stirred for 15 minutes at room temperature, then cooled to 10° C. 491 g (3.17 mol) of POCl3 are added at 15° C. over a period of 30 minutes. The suspension is stirred at room temperature for 16 hours, and the mixture is cooled to 10° C., and 6 L of water are added into the reaction mixture slowly (first 400 mL of water addition is very exothermic). The suspension is then stirred at room temperature for 6 hours further, and the solids are collected by filtration, washed with 2 L of water and dried to a constant weight at 50° C. (20 mbar) to afford 4-chloromethyl-5-methyl-2-[4-(trifluoromethyl)phenyl]-oxazole as a white solid (400 g, 85% yield): m.p. 97–98° C.

reactant | 4,5-dimethyl-2-(4-trifluoromethylphenyl)-oxazole 3-oxide hydrochloride | 1.70 mol, 500 g | Cl.CC=1[N+](=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)[O-]
reactant | POCl3 | 3.17 mol, 491 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | water | 6 L | O | H2O
reactant | water | 400 mL | O | H2O
solvent | acetonitrile | 4.06 L | C(C)#N | C2H3N
product | 4-chloromethyl-5-methyl-2-[4-(trifluoromethyl)phenyl]-oxazole | 400 g, 85% yield | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9ClF3NO
